### PR TITLE
feat: redesign `mvcgen'` for a new meta theory 

### PR DESCRIPTION
**Pull request by volodeyka**
This PR rewrites the experimental `mvcgen'` tactic on top of a new meta theory from #12965. 

Except new meta theory, the main technical difference from the current `mvcgen'` is that it, when solving `pre ⊑ wp x post epost` eagerly introduces all the state components. In other words, if for a monad `m` we are working with, the shape of the corresponding assertion language `Pred` is `σ₁ → σ₂ → ⋯ → σₙ → l`, then we will immediately introduce `s₁ : σ₁`, `s₂ : σ₂`, … , `sₙ : σₙ` yielding `pre s₁ s₂ ⋯ sₙ ⊑ wp x post epost s₁ s₂ ⋯ sₙ`. Most of the time, since we work with `Pred` type of `σ₁ → σ₂ → ⋯ → σₙ → Prop` shape, `pre s₁ s₂ ⋯ sₙ` would be of type `Prop` and we can introduce it into a local context. This prevents us from information loss and potentially enables more `grind` internalization (since more facts are introduced to a local context).

We also change how we specify the invariants for all kinds of loops, iterators, folds, maps and so on… 
Before, if you had a loop throwing an exception inside, say,
```
def throwing_loop : ExceptT Nat (StateT Nat Id) Nat := do
  let mut x := 0
  let s ← get
  for i in [1:s] do { x := x + i; if x > 4 then throw 42 }
  set 1
  return x
```
when you call `mvgen'` you should have specified the invariant *together with a condition on exception*: 
```
theorem throwing_loop_spec :
  ⦃fun s => ⌜s = 4⌝⦄
  throwing_loop
  ⦃post⟨fun _ _ => ⌜False⌝,
        fun e s => ⌜e = 42 ∧ s = 4⌝⟩⦄ := by
  mvcgen' [throwing_loop]
  case inv1 => exact post⟨fun (xs, r) s => ⌜r ≤ 4 ∧ s = 4 ∧ r + xs.suffix.sum > 4⌝, -- actual invarinat
                         fun e s => ⌜e = 42 ∧ s = 4⌝⟩  -- condition on exception
```

Now The condition on exception would be just assumed to be the one specified in the `Triple` globally:
```
theorem throwing_loop_spec :
  ⦃fun s => s = 4⦄
  throwing_loop
  ⦃fun _ _ => False;
  fun e s => e = 42 ∧ s = 4⦄ := by
  mvcgen' [throwing_loop]
  case inv1 => exact ⟨fun (xs, r) s => r ≤ 4 ∧ s = 4 ∧ r + xs.suffix.sum > 4⟩ -- only the invariant
```
This should make the invariant specification more straightforward. 
 
Internally, the `Internal/VCGen` rule-construction layer is split into a `RuleConstruct/` submodule by rule kind (`Logic`, `Match`, `Simp`, `Spec`), a new `EPost` module is added for exception-postcondition handling, and shared `Types`/`Utils` modules are introduced; the previous flat `Context`, `Entails`, `Reduce`, `RuleConstruction`, and `Util` modules are removed. The `assumption` discharger is threaded from the frontend config through the driver into the solver.

On the library side it reorganizes the `Std.Internal.Do` order/assertion metatheory into an `Order/` namespace (`Basic`, `Frame`, `Lemmas`), renaming `Std/Internal/Do/Frame.lean` to `Std/Internal/Do/Order/Frame.lean`, and updates the `Std.Internal.Do.Triple`/`WP` specs that build on it.

This is the second of two steps that land `vova/new-mvcgen` onto master. The first step (#13954) updated the `@[spec]` builtin attribute and regenerated `stage0`, so this PR reuses master's `stage0` and contains no generated C changes.

### CODE REVIEW

File: src/Lean/Elab/Tactic/Do/Internal/VCGen/RuleConstruct/Spec.lean [hunk 1]
```diff
@@ -0,0 +1,310 @@
...
+open Lean.Elab.Tactic.Do.Internal.SpecAttr
+open Lean.Elab.Tactic.Do.Internal.VCGen
+
+/-! ## Backward rule construction from specs -/
+
+/- TODO: what would be the proper way? -/
+def mkStateName (_ty : Expr) : Name := `s
+  -- match ty.const?.map (·.1) with
+  -- | some name => "state" ++ name.toString |>.toName
+  -- | none => `s
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/Do/Internal/VCGen/RuleConstruct/Spec.lean]: I don't get this definition. Why not inline it? just name it `` `s `` unconditionally.
